US06071538
Titration of α-interferon as Measured by Intrinsic Tryptophan Fluorescence
A stock solution of 9.1 mg/mL α-interferon in 20 mM sodium phosphate buffer at pH 7.2 was prepared. A stock solution of perturbant was prepared by dissolving 800 mg of perturbant (L-arginine acylated with cyclohexanoyl chloride) in 2 mL of 20 mM Sodium Phosphate buffer (pH7).

reactant | L-arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | cyclohexanoyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | sodium phosphate | 20 mM | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | Sodium Phosphate | 20 mM, 2 mL, pH7 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
product | Tryptophan | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
